US07288537B2
1-{(S)-3-[3-(4-fluoro-benzyl)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclo-propyl-2-methyl-2H-pyrazol-3-yl)-urea—Example 145
This compound is prepared in a manner analogous to that used to prepare 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea in Example 83 except using (S)-2-amino-4-[3-(4-fluoro-benzyl)-azetidin-1-yl]-butan-1-ol in place of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol.

reactant | 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)C2CC2)C)C=C1 | C21H28ClN5O3
reactant | (S)-2-amino-4-[3-(4-fluoro-benzyl)-azetidin-1-yl]-butan-1-ol | N[C@H](CO)CCN1CC(C1)CC1=CC=C(C=C1)F | C14H21FN2O
product | 1-{(S)-3-[3-(4-fluoro-benzyl)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclo-propyl-2-methyl-2H-pyrazol-3-yl)-urea | FC1=CC=C(CC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)C2CC2)C)C=C1 | C22H30FN5O2
